US05539099
3', 5'-Di-O-methanesulfonylthymidine
To a dry, round-bottom flask purged with nitrogen was added thymidine (10.0 g, 0.0412 mole) and acetone (30 mL). The slurry was stirred and 3, 5-lutidine (17.7 g, 0.165 mole) was added. Then, methanesulfonyl chloride (13.8 g, 0.124 mole) was added over ten minutes with the temperature rising to 40° C. After 45 minutes, the reaction was complete and the thick slurry was diluted with 150 mL of water. The slurry was stirred for 25° C. for 30 minutes, and then cooled at 0°-5° C. for 30 minutes. The solids were collected, washed with water (80 mL) and isopropanol (40 mL), then dried to give 16.1 g (98.2%) of the title compound.

reactant | thymidine | 0.0412 mole, 10.0 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | acetone | 30 mL | CC(=O)C | C3H6O
reactant | methanesulfonyl chloride | 0.124 mole, 13.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 150 mL | O | H2O
product | 3', 5'-Di-O-methanesulfonylthymidine | 16.1 g, 98.2% | CS(=O)(=O)O[C@H]1C[C@@H](O[C@@H]1COS(=O)(=O)C)N1C(=O)NC(=O)C(C)=C1 | C12H18N2O9S2
